US04362738
1-(4-Amino-3-bromo-5-tert.butylaminomethyl-benzoyloxy)-5-{2-[(2,6-dichlorophenyl)-amino]-phenylacetoxy}-n-pentane
This compound was prepared from 5-(4-Amino-3-bromo-5-tert. butylaminomethyl-benzoyloxy)-n-pentyl chloride and sodium 2-[(2,6-dichlorophenyl)-amino]-phenylacetate analogous to Example 8.

reactant | 5-(4-Amino-3-bromo-5-tert. butylaminomethyl-benzoyloxy)-n-pentyl chloride | NC1=C(C=C(C(=O)OCCCCCCl)C=C1CNC(C)(C)C)Br | C17H26BrClN2O2
reactant | sodium 2-[(2,6-dichlorophenyl)-amino]-phenylacetate | ClC1=C(C(=CC=C1)Cl)NC1=C(C=CC=C1)CC(=O)[O-].[Na+]
product | 1-(4-Amino-3-bromo-5-tert.butylaminomethyl-benzoyloxy)-5-{2-[(2,6-dichlorophenyl)-amino]-phenylacetoxy}-n-pentane | NC1=C(C=C(C(=O)OCCCCCOC(CC2=C(C=CC=C2)NC2=C(C=CC=C2Cl)Cl)=O)C=C1CNC(C)(C)C)Br | C31H36BrCl2N3O4
